US09145348B2
Step 4b. 4-Fluoro-5-isopropyl-2-methoxyphenylboronic acid
A solution of 2-bromo-4-isopropyl-5-fluoroanisole (88 wt % in toluene, 10.44 g, 37.2 mmol) in anhydrous toluene was cooled to −10° C. under N2 atmosphere, and 2.5 M, n-butyllithium solution in hexanes (16.36 ml, 40.69 mmol) was added slowly. After stirring at the same temperature for 10 minutes, the resulting solution was transferred to a cooled solution of triisopropyl borate (14.53 ml, 61.3 mmol) and TMEDA (2.80 ml, 18.59 mmol) in toluene slowly at −20° C. After stirring for 30 minutes, the reaction mixture was quenched with 3M H2SO4 (45 ml), and the resulting mixture was worked up as described in Step 4a to provide the title compound in 83% yield (6.62 g, 98.5 wt %).

reactant | 2-bromo-4-isopropyl-5-fluoroanisole | 37.2 mmol, 10.44 g | BrC1=C(C=C(C(=C1)C(C)C)F)OC | C10H12BrFO
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 61.3 mmol, 14.53 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | TMEDA | 18.59 mmol, 2.80 ml | CN(C)CCN(C)C | C6H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Fluoro-5-isopropyl-2-methoxyphenylboronic acid | 83% yield | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
